US09260438B2
A solution of approximately 17 wt % hydrogen chloride in isopropanol (7.684 mmol) was added to a suspension of tofacitinib free base (2.0 g, 6.402 mmol) in acetone (28 mL). The suspension was heated to 45° C. for 4 hours and then cooled to 23 to 25° C. Small amounts of solids were adhered to the walls of the flask which were broken with a spatula. The white suspension was stirred at 23 to 25° C. for 22 hours, filtered, washed with acetone (2×10 mL) and dried under vacuum (5 torr) at 40° C. (3 hours) to yield tofacitinib hydrochloride (2.36 g) as a white solid. 1H NMR analysis showed a molar ratio of tofacitinib hydrochloride to acetone of approximately 1:0.82 (12.0 wt %). Water content (KF) was 1.89%. A PXRD taken of the sample is shown in FIG. 3.

reactant | hydrogen chloride | Cl | ClH
reactant | isopropanol | 7.684 mmol | C(C)(C)O | C3H8O
reactant | tofacitinib | 6.402 mmol, 2.0 g | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N | C16H20N6O
solvent | acetone | 28 mL | CC(=O)C | C3H6O
product | tofacitinib hydrochloride | 2.36 g | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N.Cl | InChI=1S/C16H20N6O.ClH/c1-11-5-8-22(14(23)3-6-17)9-13(11)21(2)16-12-4-7-18-15(12)19-10-20-16;/h4,7,10-11,13H,3,5,8-9H2,1-2H3,(H,18,19,20);1H/t11-,13+;/m1./s1
